US08053457B2
2-{2-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-ethyl}-isoindole-1,3-dione
2-piperazin 1-yl-ethanol (510 mg, 3.9 mmol) is dissolved in CH3CN (5 mL). N-(2-Bromoethyl)-phthalimid (995 mg, 3.9 mmol) and anhydrous K2CO3 (1.1 g, 7.8 mmol) are added at RT and then the reaction mixture is refluxed for 5 h. The reaction mixture is allowed to cool to RT again and the precipitated crude product is isolated by filtration. It is then purified by flash chromatography (SiO2; DCM/MeOH, gradient 1-5% MeOH) to give the title compound as a white powder.: M+H=304.1; HPLC: CtRet=1.73 min.

reactant | 2-piperazin 1-yl-ethanol | 3.9 mmol, 510 mg | N1(CCNCC1)CCO | C6H14N2O
reactant | N-(2-Bromoethyl)-phthalimid | 3.9 mmol, 995 mg | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | K2CO3 | 7.8 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 2-{2-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-ethyl}-isoindole-1,3-dione | OCCN1CCN(CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C16H21N3O3
